US08372874B2
Step 5: Synthesis of [3-(1,1-Dimethyl-2-methylamino-ethyl)-isoxazol-5-yl]-carbamic acid tert-butyl ester
[3-(1,1-Dimethyl-2-oxo-ethyl)-isoxazol-5-yl]-carbamic acid tert-butyl ester (150.0 mg, 0.59 mmol) is dissolved in THF (1.0 mL) and 2M methylamine in THF (0.35 mL, 0.71 mmol) is added followed by the addition of MP-triacetoxyborohydride (546.0 mg, 2.70 mmol/g). The reaction mixture is placed on a shaker for 2 h. After this time, the reaction mixture is filtered and the filtrate is concentrated under reduced pressure to provide 163.0 mg of the title compound which is used crude for the next step. m/z 270 [M+H].

reactant | [3-(1,1-Dimethyl-2-oxo-ethyl)-isoxazol-5-yl]-carbamic acid tert-butyl ester | 0.59 mmol, 150.0 mg | C(C)(C)(C)OC(NC1=CC(=NO1)C(C=O)(C)C)=O | C12H18N2O4
reactant | methylamine | 2M | CN | CH5N
reactant | triacetoxyborohydride | 546.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 0.71 mmol, 0.35 mL | C1CCOC1 | C4H8O
product | [3-(1,1-Dimethyl-2-methylamino-ethyl)-isoxazol-5-yl]-carbamic acid tert-butyl ester | 163.0 mg | C(C)(C)(C)OC(NC1=CC(=NO1)C(CNC)(C)C)=O | C13H23N3O3
